US06020345
Stage 6: [6-(1H-pyrrol-2-yl)pyridin-2-yl]methanol
3 g of 2-[6-(2-trimethylsilanyl-ethoxymethoxy-methyl)pyridin-2-yl]pyrrole-1-carboxylic acid tert-butyl ester (7.41 mmol) are added to a solution of 3 ml of 1.1 M tetrabutylammonium fluoride in tetrahydrofuran, 45 ml of tetrahydrofuran and 5 ml of hexamethylphosphoramide, containing 10 g of molecular sieve (4 angstrom). The mixture is stirred at 45° C. under argon for 8 hours. After filtration of the insoluble matter on celite, the tetrahydrofuran is evaporated off. The title product is purified by chromatography on a silica column (eluent: dichloromethane/ethyl acetate; 99:1). 0.50 g of a white solid is recovered.

reactant | 2-[6-(2-trimethylsilanyl-ethoxymethoxy-methyl)pyridin-2-yl]pyrrole-1-carboxylic acid tert-butyl ester | 7.41 mmol, 3 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=NC(=CC=C1)COCOCC[Si](C)(C)C | C21H32N2O4Si
reactant | tetrabutylammonium fluoride | 1.1 M, 3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | [6-(1H-pyrrol-2-yl)pyridin-2-yl]methanol | N1C(=CC=C1)C1=CC=CC(=N1)CO | C10H10N2O
